US07141561B2
1-(2,2-Dimethoxyethyl)-3-(4-methoxyphenyl)-1-(4-phenoxyphenyl)urea
A solution of 4-methoxyaniline (1.9 g) in dimethylformamide (3 ml) was added dropwise to a solution of carbonyidiimidazole (2.51 g) in dimethylformamide (15 ml) at 0° C. After a reaction time at 0° C. of 15 minutes, the reaction was allowed to continue at room temperature for 45 minutes. Then (2,2-dimethoxyethyl)-(4-phenoxyphenyl)amine (4.1 g) in dimethylformamide (2 ml) was added, and the mixture was heated at 80° C. for 2 hours. After cooling, volatiles were removed and the residue was taken up in ethyl acetate. The organic phase was washed with water and saturated brine. The organic phase was dried over magnesium sulfate and concentrated. The product with the molecular weight of 422.49 (C24H26N2O5); MS (ESI): 423 ([M+H]+), was obtained in this way.

reactant | 4-methoxyaniline | 1.9 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | carbonyidiimidazole | 2.51 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2,2-dimethoxyethyl)-(4-phenoxyphenyl)amine | 4.1 g | COC(CNC1=CC=C(C=C1)OC1=CC=CC=C1)OC | C16H19NO3
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-(2,2-Dimethoxyethyl)-3-(4-methoxyphenyl)-1-(4-phenoxyphenyl)urea | COC(CN(C(=O)NC1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC1=CC=CC=C1)OC | C24H26N2O5
